US09079853B2
5,7-dichloro-3-hydroxy-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5,7-dichloro-1-propylindoline-2,3-dione and 1-isobutyl-5-methylindoline-2,3-dione (purchased from Fisher Scientific). 1H-NMR δ 7.74 (dd, 1H), 7.65 (dd, 1H), 7.37-7.25 (m, 2H), 6.99 (dd, 1H), 5.31 (bs, OH), 4.04-3.96 (m, 6H), 3.53 (dd, 1H), 1.77 (m, 2H), 0.92 (t, 3H).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5,7-dichloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=C(C1)Cl)CCC)=O)=O | C11H9Cl2NO2
reactant | 1-isobutyl-5-methylindoline-2,3-dione | C(C(C)C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C13H15NO2
product | 5,7-dichloro-3-hydroxy-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-1-propylindolin-2-one | ClC=1C=C2C(C(N(C2=C(C1)Cl)CCC)=O)(CC(=O)C1=NC(=CC=C1)OC)O | C19H18Cl2N2O4
